US06066641
f) 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-xanthine
A mixture of 4.64 g of 6-amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-isobutyrylamino-uracil, 100 ml of water and 50 ml of 1N NaOH was heated under reflux for 1 hour. The solution was filtered, treated with 0.25 g of charcoal, filtered again and neutralized to pH 8. The solid was collected, dried, and recrystallized from THF to give the title compound (4.03 g) as a white solid mp 282-3° C.

reactant | 6-amino-1-(3-cyclopentyloxy-4-methoxy-benzyl)-5-isobutyrylamino-uracil | 4.64 g | NC1=C(C(NC(N1CC1=CC(=C(C=C1)OC)OC1CCCC1)=O)=O)NC(C(C)C)=O | C21H28N4O5
reactant | NaOH | 1N, 50 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-xanthine | 4.03 g | C1(CCCC1)OC=1C=C(CN2C(NC(C=3NC(=NC23)C(C)C)=O)=O)C=CC1OC | C21H26N4O4
